US05329012
A solution of the above 2-amino-3-(methoxymethylenamino) maleonitrile (20 g; 0. 11 mol) and 2,3-dichloro-5,6-dicyanobenzoquinone (25.5 g; 0.11 mol) in acetonitrile (750 mL) was heated at reflux for 4 days. Silica gel (100 g) was added and the acetonitrile was removed in vacuo. The silica gel was extracted with dichloromethane. The dichloromethane solution was concentrated to dryness in vacuo, the yellow residue was suspended in dichloromethane (150 mL) and the mixture was stirred. The mixture was filtered and the filtrate was concentrated in vacuo to yield a light yellow solid that was crystallized from water to give 2-methoxy-4,5-imidazoledicarbonitrile (mp 137°-138° C.).

reactant | 2-amino-3-(methoxymethylenamino) maleonitrile | 11 mol, 20 g | N/C(/C#N)=C(/C#N)\N=COC | C6H6N4O
reactant | 2,3-dichloro-5,6-dicyanobenzoquinone | 0.11 mol, 25.5 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | acetonitrile | 750 mL | C(C)#N | C2H3N
product | 2-methoxy-4,5-imidazoledicarbonitrile | COC=1NC(=C(N1)C#N)C#N | C6H4N4O
